US06602865B1
5-Benzyl-8-methyl-2,3,4,5-tetra hydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone-1-oxide
To a solution of 0.84 g (2.92 mmol) of 5-benzyl-8-methyl-2,3,4,5-tetrahydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone in 7.5 ml of glacial acetic acid the solution of 0.75 g (3.6 mmol) of sodium metaperiodate in 6 ml of water are added dropwise while stirring and cooling with ice-water. The reaction mixture is stirred for 3 hours while cooling with ice-water. The obtained suspension is filtered and washed with a small amount of water. The aqueous phase is extracted with 3×20 ml of dichloromethane. The organic phase is washed with 2×5 ml of 10% aqueous sodium carbonate solution and then with 2×10 ml of water. The organic phase is dried and evaporated in vacuum. The residue is crystallized from a 9:1 mixture of ethyl acetate and methanol. In this way 0.56 g (63%) of the title compound is obtained with a melting point of 162-163° C.

reactant | 5-benzyl-8-methyl-2,3,4,5-tetrahydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone | 2.92 mmol, 0.84 g | C(C1=CC=CC=C1)C1C2=C(SCCN1)C(N(N=C2)C)=O | C15H17N3OS
reactant | sodium metaperiodate | 3.6 mmol, 0.75 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 6 ml | O | H2O
product | 5-Benzyl-8-methyl-2,3,4,5-tetra hydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone-1-oxide | 0.56 g, 63% | C(C1=CC=CC=C1)C1C2=C(S(CCN1)=O)C(N(N=C2)C)=O | C15H17N3O2S
